US04362728
An intimate mixture of 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-(4-aminobutyl)thiazole (0.39 g.) and 5-(4-chlorobenzyl)-2-methylthiopyrimid-4-one (0.39 g.) was heated at 150°-160° for 20 min. during which time effervescence occurred. The residue obtained on cooling was subjected to preparative thin layer chromatography using chloroform/methanol/ammonia 90:10:0.5 v/v/v for development. The appropriate zone of the chromatogram was isolated and extracted with hot ethanol/chloroform (50:50 v/v; 200 ml.). Evaporation of the eluate gave a glass which was dissolved in acetone (0.3 ml.) and treated with an excess of a saturated solution of maleic acid in acetone to give a maleate salt of 5-(4-chlorobenzyl)-2-{4-[2-(2,2,2-trifluoroethyl)guanidinothiazol-4-yl]butylamino}-pyrimid-4-one as a white powder (0.1 g.) which contained 1.5 moles of maleic acid and 1.5 moles of water of crystallisation. The n.m.r. spectrum in d6 dimethylsulphoxide using tetramethylsilane (δ=0) as internal standard included the following resonances (δ): 3.45 (2H, singlet); 4.1 (2H, multiplet); 7.1 (3H, singlet-maleic acid); 7.45 (1H, singlet) and 8.2 (4H, singlet).

reactant | 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-(4-aminobutyl)thiazole | 0.39 g | FC(CN=C(NC=1SC=C(N1)CCCCN)N)(F)F | C10H16F3N5S
reactant | 5-(4-chlorobenzyl)-2-methylthiopyrimid-4-one | 0.39 g | ClC1=CC=C(CC=2C(NC(=NC2)SC)=O)C=C1 | C12H11ClN2OS
reactant | chloroform methanol ammonia | C(Cl)(Cl)Cl.CO.N
reactant | maleic acid | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | acetone | 0.3 ml | CC(=O)C | C3H6O
product | 5-(4-chlorobenzyl)-2-{4-[2-(2,2,2-trifluoroethyl)guanidinothiazol-4-yl]butylamino}-pyrimid-4-one | ClC1=CC=C(CC=2C(NC(=NC2)NCCCCC=2N=C(SC2)NC(=NCC(F)(F)F)N)=O)C=C1 | C21H23ClF3N7OS
